US05264437
2-(3-Nitroanilino)-3-carbamoylpyridine (20 g, 77.5 mmole) was dissolved in tetrahydrofuran (2000 ml). Sodium hydride (60% dispersion in oil) (12.4 g, 310.0 mmole) was washed in hexanes and added to the solution. The solution was stirred for 5 minutes at room temperature under an inert atmosphere. To the solution, CDI (1,1'-carbonyldiimidazole) (18.8 g, 116.2 mmole) was added in a gradual manner over a period of 15 minutes, the resulting mixture was stirred at room temperature for 1 hour and subsequently refluxed for 24 hours. The solvent was removed resulting in a brown residue. Water was added to the residue and the resulting solution was extracted with ethyl acetate (5×300 ml). The phases were separated and the product was recrystallized from EtOAc/Et2O yielding a 12 g (42.4 mmole, 54.5% yield) of 1-N-(3-nitrophenyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione (mp 262°-263° C.).

reactant | 2-(3-Nitroanilino)-3-carbamoylpyridine | 77.5 mmole, 20 g | [N+](=O)([O-])C=1C=C(NC2=NC=CC=C2C(N)=O)C=CC1 | C12H10N4O3
reactant | Sodium hydride | 310.0 mmole, 12.4 g | [H-].[Na+]
reactant | CDI | 116.2 mmole, 18.8 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Water | O | H2O
solvent | tetrahydrofuran | 2000 ml | O1CCCC1 | C4H8O
solvent | EtOAc Et2O | CCOC(=O)C.CCOCC
product | 1-N-(3-nitrophenyl)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 42.4 mmole, 12 g, 54.5% yield | [N+](=O)([O-])C=1C=C(C=CC1)N1C(NC(C2=C1N=CC=C2)=O)=O | C13H8N4O4
